### PR TITLE
[Merged by Bors] - feat(RepresentationTheory/FinGroupCharZero): applications of Maschke's theorem

### PR DESCRIPTION
**Pull request by smorel394**
Prove some properties of representations that follow from Maschke's theorem:
* If `G` is a finite group whose order is invertible in a field `k`, then every object of `Rep k G` (resp. `FDRep k G`) is injective and projective.
* For an object `V` of `FDRep k G`, when `k` is an algebraically closed field in which the order of `G` is invertible:
(1) `V` is simple if and only `V ⟶ V` is a `k`-vector space of dimension `1` (`FDRep.simple_iff_end_is_rank_one`);
(2)  When `k` is characteristic zero, `V` is simple if and only if `∑ g : G, V.character g * V.character g⁻¹ = Fintype.card G` (`FDRep.simple_iff_char_is_norm_one`).

Note: This used to be #27165, but it was closed for some reason I don't understand.

- [x] depends on: #27154
- [x] depends on: #27134
- [x] depends on: #27125

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RepresentationTheory/FinGroupCharZero.lean [hunk 1]
```diff
@@ -0,0 +1,134 @@
...
+end Rep
+
+namespace FDRep
+
+/--
+If `G` is finite and its order is nonzero in the field `k`, then every object of
+`FDRep k G` is injective.
+-/
+instance [NeZero (Fintype.card G : k)] (V : FDRep k G) : Injective V := (forget₂ (FDRep k G)
+  (Rep k G)).injective_of_map_injective inferInstance
```
Comment (jcommelin) [inline Mathlib/RepresentationTheory/FinGroupCharZero.lean]: Minor nitpick, but by breaking after `:=` we avoid a line-break in the value.
```suggestion
instance [NeZero (Fintype.card G : k)] (V : FDRep k G) : Injective V :=
  (forget₂ (FDRep k G) (Rep k G)).injective_of_map_injective inferInstance
```

File: Mathlib/RepresentationTheory/FinGroupCharZero.lean [hunk 2]
```diff
@@ -0,0 +1,134 @@
...
+
+/--
+If `G` is finite and its order is nonzero in the field `k`, then every object of
+`FDRep k G` is projective.
+-/
+instance [NeZero (Fintype.card G : k)] (V : FDRep k G) : Projective V := (forget₂ (FDRep k G)
+  (Rep k G)).projective_of_map_projective inferInstance
```
Comment (jcommelin) [inline Mathlib/RepresentationTheory/FinGroupCharZero.lean]:
```suggestion
instance [NeZero (Fintype.card G : k)] (V : FDRep k G) : Projective V :=
  (forget₂ (FDRep k G) (Rep k G)).projective_of_map_projective inferInstance
```

File: Mathlib/RepresentationTheory/FinGroupCharZero.lean [hunk 3]
```diff
@@ -0,0 +1,134 @@
...
+lemma simple_iff_char_is_norm_one [CharZero k] (V : FDRep k G) :
+    Simple V ↔ ∑ g : G, V.character g * V.character g⁻¹ = Fintype.card G where
+  mp h := by
+    have := invertibleOfNonzero (NeZero.ne (Fintype.card G : k))
+    have := char_orthonormal V V
+    simp only [Nonempty.intro (Iso.refl V), ↓reduceIte] at this
+    apply_fun (fun x ↦ x * (Fintype.card G : k)) at this
+    rw [mul_comm, ← smul_eq_mul, smul_smul, mul_invOf_self] at this
+    simp only [smul_eq_mul, one_mul] at this
+    exact this
```
Comment (jcommelin) [inline Mathlib/RepresentationTheory/FinGroupCharZero.lean]: I feel like the `have : explicit statement := by simpa` is slightly more readable...
```suggestion
    classical
    have : ⅟(Fintype.card G : k) • ∑ g, V.character g * V.character g⁻¹ = 1 := by
      simpa only [Nonempty.intro (Iso.refl V), ↓reduceIte] using char_orthonormal V V
    apply_fun (· * (Fintype.card G : k)) at this
    rwa [mul_comm, ← smul_eq_mul, smul_smul, mul_invOf_self, smul_eq_mul, one_mul, one_mul] at this
```

File: Mathlib/RepresentationTheory/FinGroupCharZero.lean [hunk 4]
```diff
@@ -0,0 +1,134 @@
...
+            exact hf (Eq.refl _)
+          obtain ⟨c, hc⟩ := (finrank_eq_one_iff_of_nonzero' _ h₂).mp h (𝟙 V)
+          refine Preadditive.epi_of_cancel_zero _ (fun g hg ↦ ?_)
+          apply_fun (fun x ↦ x ≫ g) at hc
+          simp only [equalizer_as_kernel, Linear.smul_comp, Category.assoc, hg, Limits.comp_zero,
+            smul_zero, Category.id_comp] at hc
+          exact hc.symm
+        rw [← Abelian.image.fac f]
+        exact epi_comp _ _
+      exact isIso_of_mono_of_epi f
```
Comment (jcommelin) [inline Mathlib/RepresentationTheory/FinGroupCharZero.lean]: I tried to massage this a bit. Please let me know if you think it is an improvement
```suggestion
    refine { mono_isIso_iff_nonzero {W} f _ := ⟨fun hf habs ↦ ?_, fun hf ↦ ?_⟩ }
    · rw [habs, isIsoZero_iff_source_target_isZero] at hf
      obtain ⟨g, hg⟩ : ∃ g : V ⟶ V, g ≠ 0 :=
        (Module.finrank_pos_iff_exists_ne_zero (R := k)).mp (by grind)
      exact hg (hf.2.eq_zero_of_src g)
    · suffices Epi f by exact isIso_of_mono_of_epi f
      suffices Epi (Abelian.image.ι f) by
        rw [← Abelian.image.fac f]
        exact epi_comp _ _
      rw [← Abelian.image.fac f] at hf
      set ι := Abelian.image.ι f
      set φ := Injective.factorThru (𝟙 _) ι
      have hφι : φ ≫ ι ≠ 0 := by
        intro habs
        have hιφ : 𝟙 _ = ι ≫ φ := (Injective.comp_factorThru (𝟙 _) ι).symm
        apply_fun (· ≫ ι) at hιφ
        simp_all
      obtain ⟨c, hc⟩ : ∃ c : k, c • _ = 𝟙 V := (finrank_eq_one_iff_of_nonzero' _ hφι).mp h (𝟙 V)
      refine Preadditive.epi_of_cancel_zero _ (fun g hg ↦ ?_)
      apply_fun (· ≫ g) at hc
      simpa [hg] using hc.symm
```
here I am using:
```lean
-- move this after `isIsoZeroEquivIsoZero`
variable (C : Type u) [Category C] [HasZeroMorphisms C] [HasZeroObject C] in
/-- A zero morphism `0 : X ⟶ Y` is an isomorphism if and only if
`X` and `Y` are isomorphic to the zero object.
-/
lemma isIsoZero_iff_source_target_isZero (X Y : C) : IsIso (0 : X ⟶ Y) ↔ IsZero X ∧ IsZero Y := by
  constructor
  · intro h
    let h' := isIsoZeroEquivIsoZero _ _ h
    exact ⟨(isZero_zero _).of_iso h'.1, (isZero_zero _).of_iso h'.2⟩
  · intro ⟨hX, hY⟩
    exact (isIsoZeroEquivIsoZero _ _).symm ⟨hX.isoZero, hY.isoZero⟩
```

**Review by jcommelin — COMMENTED** [review]
My apologies that it took me so awfully long to get around to reviewing this.

File: Mathlib/RepresentationTheory/FinGroupCharZero.lean (hunk 4 above)
Comment (smorel394) [reply Mathlib/RepresentationTheory/FinGroupCharZero.lean]: Yes, it looks a bit more readable to me. Thanks!

**Review by jcommelin — COMMENTED** [review]
Thanks :tada: 

If CI passes, please remove the label `awaiting-CI` and merge this yourself, by adding a comment `bors r+`.

bors d+
